US09371319B2
Preparation 133: 2-Chloro-4-(pyrazin-2-yl)aniline
To a mixture of 4-amino-3-chlorophenylboronic acid pinacol ester (0.110 g, 0.434 mmol), 2-bromopyrazine (0.090 g, 0.56 mmol), 1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) DCM complex (24 mg, 0.029 mmol) was added anhydrous DME (3.0 mL) followed by 2M aqueous sodium carbonate (0.53 mL, 1.06 mmol). The microwave vial was heated at 75° C. for 40 minutes under microwave irradiation. Further catalyst (0.012 g) was added and the vial was heated at 90° C. for 25 minutes under microwave irradiation. Further 2-bromopyrazine (0.060 g), catalyst (12 mg) and 2M aqueous sodium carbonate (0.25 mL) were added and the reaction mixture was heated at 90° C. for an additional 30 minutes under microwave irradiation. The reaction was partitioned between ethyl acetate (60 mL) and a saturated aqueous NaHCO3 solution (15 mL). The organic layer was washed with a saturated aqueous NaHCO3 solution (2×15 mL), dried (Na2SO4) and concentrated in vacuo. The residue was purified using preparative TLC eluting with 7% ethyl acetate in CH2Cl2. The product band was recovered and stirred with 2% MeOH in ethyl acetate/CH2Cl2 (v/v; 1:10) (20 mL). The silica was removed by filtration, washed with ethyl acetate/CH2Cl2 (v/v; 1:5) (2×5 mL) and acetone (3×4 mL) to give the title compound as an off-white solid (0.039 g, 44%). 1H-NMR (500 MHz, DMSO-d6) 5.86 (s, 2H), 6.89 (d, J=8.5, 1H), 7.85 (dd, J=2.1, 8.5 Hz, 1H), 8.02 (d, J=2.1 Hz, 1H), 8.44 (d, J=2.5 Hz, 1H), 8.57 (dd, J=1.6, 2.5 Hz, 1H), 9.12 (d, J=1.5 Hz, 1H).

reactant | 4-amino-3-chlorophenylboronic acid pinacol ester | 0.434 mmol, 0.110 g | NC1=C(C=C(C=C1)B1OC(C)(C)C(C)(C)O1)Cl | C12H17BClNO2
reactant | 2-bromopyrazine | 0.56 mmol, 0.090 g | BrC1=NC=CN=C1 | C4H3BrN2
reactant | sodium carbonate | 1.06 mmol, 2M, 0.53 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromopyrazine | 0.060 g | BrC1=NC=CN=C1 | C4H3BrN2
reactant | sodium carbonate | 2M, 0.25 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | DME | 3.0 mL | COCCOC | C4H10O2
product | 2-Chloro-4-(pyrazin-2-yl)aniline | 0.039 g, 44% | ClC1=C(N)C=CC(=C1)C1=NC=CN=C1 | C10H8ClN3
